* C:\Users\noursec\Documents\personal projects\wavefolder\analog_wavefolder\simulation\cascaded_wavefolder.asc
V1 vin 0 SINE(0 3 1k)
R1 clip1 vin 100
D1 clip1 N004 1N4148
D2 0 N005 1N4148
XU1 N001 N003 vout1 opamp Aol=100K GBW=10Meg
R2 N001 vin 10k
R3 vout1 N001 10k
R5 N003 clip1 10k
V3 N005 clip1 0
V4 N004 0 0
XU4 N002 0 vout1 opamp Aol=100K GBW=10Meg
R4 N002 vout1 10k
R19 vout1 N002 10k
R20 vout1 0 1Meg
R7 clip2 vout1 100
D3 clip2 N011 1N4148
D4 0 N012 1N4148
XU2 N007 N010 N008 opamp Aol=100K GBW=10Meg
R8 N007 vout1 10k
R9 N008 N007 10k
R10 N010 clip2 10k
V2 N012 clip2 0
V5 N011 0 0
XU3 N009 0 vout2 opamp Aol=100K GBW=10Meg
R12 N009 N008 10k
R13 vout2 N009 10k
R14 N008 0 1Meg
R15 clip3 vout2 100
D5 clip3 N018 1N4148
D6 0 N019 1N4148
XU5 N014 N017 N015 opamp Aol=100K GBW=10Meg
R16 N014 vout2 10k
R17 N015 N014 10k
R18 N017 clip3 10k
V6 N019 clip3 0
V7 N018 0 0
XU6 N016 0 vout3 opamp Aol=100K GBW=10Meg
R22 N016 N015 10k
R23 vout3 N016 10k
R24 N015 0 1Meg
.model D D
.lib C:\Users\noursec\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0.01
.lib opamp.sub
.lib opamp.sub
.lib opamp.sub
.backanno
.end
